US07576074B2
Methyl 3,6-anhydro-2-O-methyl-5-O-(methylsulfonyl)-β-D-glucofuranoside (314 mg, 1.1 mmol) was dissolved in DMF (3 mL). To this solution was added potassium carbonate (404 mg, 2.9 mmol) and 4-[(4-bromo-3-chlorophenyl)amino]-6-methyloxy-7-hydroxyquinazoline trifluoroacetate (280 mg, 0.59 mmol). The resulting mixture was heated at 135° C. for 18 h. After cooling to room temperature the reaction mixture was diluted with ethyl acetate (15 mL), washed with water, dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography (silica gel, 2-7% methanol in 1:1 ethyl acetate:hexanes) to give methyl 3,6-anhydro-5-O-[4-[(4-bromo-3-chlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]-2-O-methyl-α-L-idofuranoside as a white solid, 181 mg, 28% yield. 1H NMR (400 MHz; Methanol-d4): 8.75 (s, 1H), 8.04-8.06 (d, 1H), 7.99 (s, 1H), 7.78-7.75 (d, 1H), 7.64-7.61 (d, 1H), 7.35 (s, 1H), 5.16-5.14 (d, 1H), 5.02 (s, 1H), 4.89 (br, 1H), 4.69-4.68 (d, 1H) 4.46-4.42 (dd, 1H), 4.09 (br, 1H), 4.06 (s, 3H), 3.69(s, 1H), 3.48(s, 3H), 3.42 (s, 3H); MS (EI) for C23H23BrClN3O6: 551.88 (MH+).

reactant | Methyl 3,6-anhydro-2-O-methyl-5-O-(methylsulfonyl)-β-D-glucofuranoside | 1.1 mmol, 314 mg | CO[C@H]1[C@H](OC)O[C@H]2[C@@H]1OC[C@H]2OS(=O)(=O)C | C9H16O7S
reactant | potassium carbonate | 2.9 mmol, 404 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[(4-bromo-3-chlorophenyl)amino]-6-methyloxy-7-hydroxyquinazoline trifluoroacetate | 0.59 mmol, 280 mg | FC(C(=O)O)(F)F.BrC1=C(C=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)O)Cl
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3,6-anhydro-5-O-[4-[(4-bromo-3-chlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]-2-O-methyl-α-L-idofuranoside | 28% yield | BrC1=C(C=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)O[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](OC)O2)OC)OC1)Cl | C23H23BrClN3O6
